US07662831B2
Following the procedure of Example 1, step 1, indoline (20 g, 170 mmol), sodium nitrite (14 g, 200 mmol), concentrated hydrochloric acid (30 mL) in water (70 mL) and ether (120 mL) provided 1-nitroindoline (31 g), which was reduced with zinc dust (˜50 g) in acetic acid (500 mL) to provide 1-aminoindoline (29 g). A mixture of 1-aminoindoline (17 g, 130 mmol), cycloheptanone (15 mL, 130 mmol), and concentrated sulfuric acid (20 mL) in water (180 mL) provided 8.2 g of 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole. MS (ESI) m/z 212.

reactant | 1-aminoindoline | 130 mmol, 17 g | NN1CCC2=CC=CC=C12 | C8H10N2
reactant | cycloheptanone | 130 mmol, 15 mL | C1(CCCCCC1)=O | C7H12O
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 180 mL | O | H2O
product | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole | 8.2 g | C1=C2C3=C(N4C2=C(C=C1)CC4)CCCCC3 | C15H17N
